US05719141
580 mg of 2(R,S)-methoxycarbonyl-3,4-dihydro-2H-1,4-benzothiazine are dissolved in 3 ml of a 6N ammonia solution in methanol and the solution is stirred at 50° C. for 16 h. Purification by chromatography over 50 g of silica gel gives 2(R,S)-carbamoyl-3,4-dihydro-2H-1,4-benzothiazine: Rf (Y)=0.19.

reactant | 2(R,S)-methoxycarbonyl-3,4-dihydro-2H-1,4-benzothiazine | 580 mg | COC(=O)C1SC2=C(NC1)C=CC=C2 | C10H11NO2S
reactant | ammonia | 6N | N | H3N
solvent | methanol | CO | CH4O
product | 2(R,S)-carbamoyl-3,4-dihydro-2H-1,4-benzothiazine | C(N)(=O)C1SC2=C(NC1)C=CC=C2 | C9H10N2OS
